US07473786B1
5-Chloro-7-fluoro-2-phenyl-1H-indole (entry 7, Table 1):
The general procedure was used to convert 4-Chloro-2-fluoro-6-iodo-phenylamine and phenylacetylene to the title product. Purification by flash chromatography gave the analytically pure product as a white solid, 92% yield. 1H NMR (300 MHz, DMSO) δ 12.13 (s, 1H), 7.98-7.95 (d, J=7.72, 2H), 7.51-7.46 (t, J=7.53, 2H), 7.44 (s, 1H), 7.40-7.35 (t, J=7.72, 1H), 7.11-7.07 (d, J=10.92, 1H), 6.96 (s, 1H). 13C NMR (75 MHz, DMSO) δ 150.98, 147.70, 141.53, 133.51, 132.04, 129.73, 129.04, 126.54, 124.59, 124.10, 116.44, 108.27, 100.39. Anal. Calcd. for C14H9ClFN: C, 68.44; H, 3.69; Cl, 14.43; F, 7.73; N, 5.70. Found C, 68.26; H, 3.76; Cl, 14.70; F, 7.5; N, 5.72. m.p.: 153-155° C.

reactant | 4-Chloro-2-fluoro-6-iodo-phenylamine | ClC1=CC(=C(C(=C1)I)N)F | C6H4ClFIN
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | 5-Chloro-7-fluoro-2-phenyl-1H-indole | 92% yield | ClC=1C=C2C=C(NC2=C(C1)F)C1=CC=CC=C1 | C14H9ClFN
